US07282522B2
As shown in the reaction scheme 2, firstly, monomethylterephthalate may be converted to an anhydride by employing ethyl chloroformate. Then, the anhydride may be reacted with aniline or adamantamine, to produce a benzamide compound. The next reactions may be performed by the same procedure described in the reaction scheme 1.

reactant | monomethylterephthalate | COC(C1=CC=C(C(=O)[O-])C=C1)=O
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | adamantamine | C1C2CC3CC1CC(C2)(C3)N | C10H17N
product | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
